US09340514B2
Synthesis of 4-(2-((2-acrylamidophenyl)amino)-5-chloropyrimidin-4-yl)-N-(3-(trifluoromethyl)phenyl)piperazine-1-carboxamide
To a solution of 4-(2-((2-aminophenyl)amino)-5-chloropyrimidin-4-yl)-N-(3-(trifluoromethyl)phenyl)piperazine-1-carboxamide (0.043 mmol) in DCM (0.5 mL) was added acryloyl chloride (0.004 mL, 0.052 mmol) and DIEA (0.018 mL, 0.11 mmol) and the mixture was stirred at 0° C. for 1 h. The crude reaction mixture was loaded onto silica gel and purified using 0-7% MeOH/DCM gradient to give the title compound (10 mg, 43%). MS (ES+) C25H23ClF3N7O2 requires: 545. found: 546 [M+H]+.

reactant | 4-(2-((2-aminophenyl)amino)-5-chloropyrimidin-4-yl)-N-(3-(trifluoromethyl)phenyl)piperazine-1-carboxamide | 0.043 mmol | NC1=C(C=CC=C1)NC1=NC=C(C(=N1)N1CCN(CC1)C(=O)NC1=CC(=CC=C1)C(F)(F)F)Cl | C22H21ClF3N7O
reactant | acryloyl chloride | 0.052 mmol, 0.004 mL | C(C=C)(=O)Cl | C3H3ClO
reactant | DIEA | 0.11 mmol, 0.018 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-((2-acrylamidophenyl)amino)-5-chloropyrimidin-4-yl)-N-(3-(trifluoromethyl)phenyl)piperazine-1-carboxamide | 10 mg, 43% | C(C=C)(=O)NC1=C(C=CC=C1)NC1=NC=C(C(=N1)N1CCN(CC1)C(=O)NC1=CC(=CC=C1)C(F)(F)F)Cl | C25H23ClF3N7O2
